US09334290B2
A mixture of (Z)-4-((3-bromo-2-chlorophenyl)imino)-1-methyl-1H-benzo[d][1,3]oxazin-2(4H)-one (130 mg, 0.356 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (117 mg, 0.462 mmol) and potassium acetate (87 mg, 0.889 mmol) in dioxane (4 mL) was bubbled with nitrogen for 10 min. The mixture was treated with PdCl2(dppf) DCM adduct (14.5 mg, 0.018 mmol), and heated at 90° C. overnight. The cooled mixture was partitioned between EtOAc and water. The organic phase was dried and concentrated and the residue was purified by column chromatography on silica gel, eluting with EtOAc-hexanes (gradient from 0-50%), to provide (Z)-4-((2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imino)-1-methyl-1H-benzo[d][1,3]oxazin-2(4H)-one as a yellow solid (120 mg, 82% yield). Mass spectrum m/z 413 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.40-8.30 (m, 1H), 7.67-7.58 (m, 1H), 7.48-7.44 (m, 1H), 7.27 (s, 4H), 7.16-7.07 (m, 2H), 3.55-3.47 (m, 3H), 1.40-1.37 (m, 12H).

reactant | (Z)-4-((3-bromo-2-chlorophenyl)imino)-1-methyl-1H-benzo[d][1,3]oxazin-2(4H)-one | 0.356 mmol, 130 mg | BrC=1C(=C(C=CC1)\N=C/1\C2=C(N(C(O1)=O)C)C=CC=C2)Cl | C15H10BrClN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.462 mmol, 117 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.889 mmol, 87 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.018 mmol, 14.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (Z)-4-((2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imino)-1-methyl-1H-benzo[d][1,3]oxazin-2(4H)-one | 120 mg, 82% yield | ClC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)\N=C/1\C2=C(N(C(O1)=O)C)C=CC=C2 | C21H22BClN2O4
